US09399623B2
6-Chloro-2-((R)-3-(1-hydroxy-1-methyl-ethyl)-pyrrolidin-1-yl)-quinoline-5-carboxylic acid ((1R,3R)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide (106)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid ((1R,3R)-1-hydroxy-3methyl-cyclohexylmethyl)-amide, DIPEA and (R)-3-(1-hydroxy-1-methyl-ethyl)-pyrrolidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (1H), 7.85 (m, 1H), 7.58 (2H), 7.05 (1H), 4.40 (s, 1H), 4.14 (s, 1H), 3.74 (m, 1H), 3.65 (m, 1H), 3.36 (m, 2H), 3.28 (m, 2H), 2.44 (m, 2H), 2.06 (m, 2H), 1.85 (m, 2H), 1.74-1.76 (m, 5H), 1.15 (m, 6H), 1.03 (m, 1H), 0.83 (d, 3H), 0.74 (m, 1H). m/z: 460 [M+H]

reactant | 2,6-dichloro-quinoline-5-carboxylic acid ((1R,3R)-1-hydroxy-3methyl-cyclohexylmethyl)-amide | O[C@]1(C[C@@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl | C18H20Cl2N2O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-(1-hydroxy-1-methyl-ethyl)-pyrrolidine | OC(C)(C)[C@H]1CNCC1 | C7H15NO
product | 6-Chloro-2-((R)-3-(1-hydroxy-1-methyl-ethyl)-pyrrolidin-1-yl)-quinoline-5-carboxylic acid ((1R,3R)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | O[C@]1(C[C@@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1C[C@@H](CC1)C(C)(C)O | C25H34ClN3O3
